US06303659B2
2-Chloro-3-hydroxy-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide
Prepared according to the method of Example 38 using 2-chloro-3-hydroxybenzoic acid (0.39 g), 1-hydroxy benzotriazole (0.31 g), 1-adamantanemethylamine (0.4 ml) and 1,3-dicyclo-hexylcarbodiimide (0.47 g) to yield the title compound as a white solid (0.29 g).

reactant | 2-chloro-3-hydroxybenzoic acid | 0.39 g | ClC1=C(C(=O)O)C=CC=C1O | C7H5ClO3
reactant | 1-hydroxy benzotriazole | 0.31 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-adamantanemethylamine | 0.4 ml | C12(CC3CC(CC(C1)C3)C2)CN | C11H19N
reactant | 1,3-dicyclo-hexylcarbodiimide | 0.47 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 2-Chloro-3-hydroxy-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 0.29 g | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=CC=C1O | C18H22ClNO2
